US07696240B2
1-Naphthalen-1-ylmethyl-1H-indole-2,3-dicarboxylic acid
Using general procedure B, 1H-indole-2,3-dicarboxylic acid dimethyl ester was coupled with 1-bromomethyl-naphthalene and the product obtained was hydrolyzed to give the title compound as a white solid. MS: 344.3 ([M−H]−).

reactant | 1H-indole-2,3-dicarboxylic acid dimethyl ester | COC(=O)C=1NC2=CC=CC=C2C1C(=O)OC | C12H11NO4
reactant | 1-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 1-Naphthalen-1-ylmethyl-1H-indole-2,3-dicarboxylic acid | C1(=CC=CC2=CC=CC=C12)CN1C(=C(C2=CC=CC=C12)C(=O)O)C(=O)O | C21H15NO4
